US03987047
1,2,4,5-Tetrahydro-11-ethyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 11-ethyl-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 63.

reactant | 11-ethyl-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline | C(C)C1=C2C(=NC=3C=CC=CC13)CCNCC2 | C15H18N2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 1,2,4,5-Tetrahydro-11-ethyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 72% | Cl.C(C)OC(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)CC | InChI=1S/C18H22N2O2.ClH/c1-3-13-14-7-5-6-8-16(14)19-17-10-12-20(11-9-15(13)17)18(21)22-4-2;/h5-8H,3-4,9-12H2,1-2H3;1H
